* C:\Users\tbyrne\yellow_fuzz\sims\fairfield_barbershop.asc
J1 N004 N007 N008 J201
Q1 VRAIL VDR2 VOUT_RAW 0 2N2222
M1 N001 N002 N003 N003 Si9400DY
V1 VIN 0 SINE(0 0.1 1K)
R1 VIN 0 2Meg
C1 N007 VIN 0.01µ V=50 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GCM155R71H103KA55" type="X7R"
J2 VDR2 VDR1 N009 J201
R2 N007 0 2Meg
C2 0 N007 100p V=50 Irms=20.8m Rser=5.448 Lser=0 mfg="KEMET" pn="C0603C101K5RAC" type="X7R"
R3 N008 0 1k
C3 N008 0 10µ V=25 Irms=39m Rser=2.8 Lser=0 mfg="Nichicon" pn="UPR1E100MAH" type="Al electrolytic"
R4 VRAIL N004 8.2k
C4 N005 N004 0.047µ V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GCM155R71E473KA55" type="X7R"
R5 N006 N005 33k
R6 0 N010 4.7k
R7 VDR1 N006 50k
R8 VDR1 N010 50k
R9 VRAIL VDR2 9.1k
R10 N009 0 1k
R11 VOUT_RAW N011 1
R12 N011 0 10k
C5 N012 N011 0.1µ V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GCM155R71E104KE02" type="X7R"
R13 VOUT N012 1k
R14 0 VOUT 2Meg
C6 N009 0 10µ V=25 Irms=39m Rser=2.8 Lser=0 mfg="Nichicon" pn="UPR1E100MAH" type="Al electrolytic"
R15 VSRC VRAIL 1
R17 VSRC N003 47
V2 N001 0 9
R16 N002 0 2Meg
C7 VSRC 0 220µ V=25 Irms=250m Rser=0.35 Lser=0 mfg="Nichicon" pn="UPR1E221MPH" type="Al electrolytic"
D1 N002 N003 1N5817
.model D D
.lib C:\Users\tbyrne\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\tbyrne\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\Users\tbyrne\Documents\LTspiceXVII\lib\cmp\standard.jft
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\tbyrne\Documents\LTspiceXVII\lib\cmp\standard.mos
* Drive (100k pot)
* Sag (10k Pot)
* Volume (10k pot)
.tran 0 10m 0 0.1m
.backanno
.end
